US06077812
Step D 3-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione
This compound was prepared using 4.0 grams (0.036 mole) of sodium trimethylsilanolate, 6.6 grams (0.036 mole) of ethyl 3-amino-4,4,4-trifluorocrotonate, 8.5 grams (0.032 mole) of ethyl N-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)carbamate, and 2.2 grams (0.014 mole) of DBU in 75 mL of DMF. This preparation differs from well-known literature preparations for pyrimidinedione rings in that sodium trimethylsilanolate and DBU were used rather than sodium hydride. The yield of title compound was 1.7 grams. The NMR spectrum was consistent with the proposed structure.

reactant | sodium trimethylsilanolate | 0.036 mole, 4.0 grams | C[Si]([O-])(C)C.[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.036 mole, 6.6 grams | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | ethyl N-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)carbamate | 0.032 mole, 8.5 grams | NC=1C(=C(C(=CC1Cl)F)NC(OCC)=O)OC | C10H12ClFN2O3
reactant | DBU | 0.014 mole, 2.2 grams | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | sodium hydride | [H-].[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 3-(3-amino-4-chloro-6-fluoro-2-methoxyphenyl)-6-trifluoromethyl-2,4-(1H,3H)-pyrimidinedione | NC=1C(=C(C(=CC1Cl)F)N1C(NC(=CC1=O)C(F)(F)F)=O)OC | C12H8ClF4N3O3
